US09388189B2
(S)-1-(3-Hydroxy-4-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)urea
(S)-1-(3-Methoxy-4-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)urea (34 mg, 0.05 mmol) was treated with boron tribromide (1M in dichloromethane, 1.5 mL, 1.5 mmol) in dichloromethane (1.0 mL) and then with a solution of ammonia (7N in methanol, 5.0 mL, 35.0 mmol) according to the method described in Example 41. The residue was purified using SP1® Purification System (0% to 10% dichloromethane-methanol) to obtain 3 mg (12% yield) of the title compound.

reactant | (S)-1-(3-Methoxy-4-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)urea | 0.05 mmol, 34 mg | COC=1C=C(C=CC1C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C)NC(=O)N | C35H41N9O4Si
reactant | boron tribromide | 1.5 mmol, 1M, 1.5 mL | B(Br)(Br)Br | BBr3
reactant | ammonia | 35.0 mmol, 7N, 5.0 mL | N | H3N
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
product | (S)-1-(3-Hydroxy-4-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)urea | 3 mg, 12% yield | OC=1C=C(C=CC1C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)NC(=O)N | C28H25N9O3
